US06599915B2
[4-(5-Fluoro-1H-indol-3-ylmethyl)-piperidin-1-ylmethyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
(2R)-2,3-Dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate (0.46 g, 1.24 mmole) and 5-fluoro-3-(4-piperidinylmethyl)-1H-indole (1.00 g, 4.32 mmole) were combined in 40 mL of DMSO and heated at 75-80° C. under nitrogen for 6 hours. After cooling to room temperature, the mixture was partitioned between 400 mL each of ethyl acetate and saturated sodium bicarbonate solution. The organic phase was removed, washed with saturated brine, dried over magnesium sulfate and concentrated to an oil in vacuum. This was column chromatographed on silica gel using first methylene chloride to elute impurities and then 3% methanol in methylene chloride to elute 0.200 g of the product as a yellow oil. The oil was crystallized from isopropanol with the addition of 0.040 g of oxalic acid to give 0.107 g of the (S)-enantiomer of the title compound as a light red solid (m.p. 184° C.), which contained both water and isopropanol.

reactant | (2R)-2,3-Dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.24 mmole, 0.46 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC=NC3=CC2)O1 | C19H17NO5S
reactant | 5-fluoro-3-(4-piperidinylmethyl)-1H-indole | 4.32 mmole, 1.00 g | FC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C14H17FN2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | [4-(5-Fluoro-1H-indol-3-ylmethyl)-piperidin-1-ylmethyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)CC1COC=2C(=C3C=CC=NC3=CC2)O1 | C26H26FN3O2
